US07585874B2
2-(5-Methyl-3-phenyl-isoxazol-4-yl)-6-pyrazol-1-yl-imidazo[1,2-a]pyridine
As described for Example 60, 6-bromo-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine (70.8 mg, 0.2 mmol) instead of 6-iodo-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine was converted, using pyrazole instead of benzamide, to the title compound (11 mg, 16%) which was obtained as a light yellow gum. MS: m/e=342.3 [M+H]+.

reactant | 6-bromo-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine | 0.2 mmol, 70.8 mg | BrC=1C=CC=2N(C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C17H12BrN3O
reactant | pyrazole | N1N=CC=C1 | C3H4N2
product | 2-(5-Methyl-3-phenyl-isoxazol-4-yl)-6-pyrazol-1-yl-imidazo[1,2-a]pyridine | 11 mg, 16% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=C(C=C2)N2N=CC=C2)C1 | C20H15N5O
